US05079247
2-[[3-(1H-Imidazol-1 yl)propyl]imino]benz[cd]indole-1(2H)-pentanenitrile
A mixture of 4.0 g of 2-thioxobenz[cd]indole-1(2H)-pentanenitrile (Cl), 1.88 g of 1H-imidazole-1-propanamine, 100 ml of ethyl alcohol, and 4.8 g of mercuric acetate is reacted as described in Example 3, giving 4.3 g of the desired product, mp. 76°-78.5° C.

reactant | 2-thioxobenz[cd]indole-1(2H)-pentanenitrile | 4.0 g | S=C1N(C2=CC=CC=3C2=C1C=CC3)CCCCC#N | C16H14N2S
reactant | 1H-imidazole-1-propanamine | 1.88 g | N1(C=NC=C1)CCCN | C6H11N3
solvent | ethyl alcohol | 100 ml | C(C)O | C2H6O
product | 2-[[3-(1H-Imidazol-1 yl)propyl]imino]benz[cd]indole-1(2H)-pentanenitrile | 4.3 g | N1(C=NC=C1)CCCN=C1N(C2=CC=CC=3C2=C1C=CC3)CCCCC#N | C22H23N5
